US04542237
A slurry of 22.5 g of 2-bromo-1-(6-methoxy-2-naphthyl)propan-1-one in 250 ml of methanol is cooled to 10° C. and treated with 9.7 g of sodium methoxide added as a solid over a period of about 10 minutes. The reaction mixture is stirred at 15° C. for about 10 minutes and allowed to warm to 20° C. at which temperature it is stirred for an additional 15 minutes. Then the reaction mixture is poured into 250 ml of water and extracted with 250 ml of methylene chloride. The organic layer is separated, filtered and dried over magnesium sulfate. Upon evaporation under reduced pressure, there is obtained 22 g of 1,1-dimethoxy-1-(6-methoxy-2-naphthyl)propan-2-ol, as an oil.

reactant | 2-bromo-1-(6-methoxy-2-naphthyl)propan-1-one | 22.5 g | BrC(C(=O)C1=CC2=CC=C(C=C2C=C1)OC)C | C14H13BrO2
reactant | sodium methoxide | 9.7 g | C[O-].[Na+]
reactant | water | 250 ml | O | H2O
reactant | methanol | 250 ml | CO | CH4O
product | 1,1-dimethoxy-1-(6-methoxy-2-naphthyl)propan-2-ol | 22 g | COC(C(C)O)(C1=CC2=CC=C(C=C2C=C1)OC)OC | C16H20O4
